US08222414B2
[(R)-2-(5-chloro-7-cyclopentylamino-1H-indol-2-yl)-4,5-dihydro-thiazol-4-yl]-acetic acid methyl ester
[(R)-2-(5-chloro-7-nitro-1H-indol-2-yl)-4,5-dihydro-thiazol-4-yl]-acetic acid methyl ester prepared in Preparation 67 and cyclopentanone were reacted according to the same procedures as Steps A and B of Example 1 to give the title compound.

reactant | [(R)-2-(5-chloro-7-nitro-1H-indol-2-yl)-4,5-dihydro-thiazol-4-yl]-acetic acid methyl ester | COC(C[C@H]1N=C(SC1)C=1NC2=C(C=C(C=C2C1)Cl)[N+](=O)[O-])=O | C14H12ClN3O4S
reactant | cyclopentanone | C1(CCCC1)=O | C5H8O
product | [(R)-2-(5-chloro-7-cyclopentylamino-1H-indol-2-yl)-4,5-dihydro-thiazol-4-yl]-acetic acid methyl ester | COC(C[C@H]1N=C(SC1)C=1NC2=C(C=C(C=C2C1)Cl)NC1CCCC1)=O | C19H22ClN3O2S
